US07485644B2
2-({4-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]piperazin-1-yl}sulfonyl)-1-(tetrahydro-2H-pyran-4-yl)ethanol (3.6 g, 0.008M) was dissolved in DCM (100 ml) and triethylamine (5.58 ml, 0.04 mol) was added. The mixture was cooled to 0° C. and methane sulphonyl chloride (0.94 ml, 0.012M) added with stirring at room temperature overnight. Water was added and the organic phase separated off, dried over MgSO4, filtered and evaporated to dryness to yield 1-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-4-{[(E)-2-(tetrahydro-2H-pyran-4-yl)vinyl]sulfonyl}piperazine. Yield (3.15 g, 86.6%).

reactant | 2-({4-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]piperazin-1-yl}sulfonyl)-1-(tetrahydro-2H-pyran-4-yl)ethanol | 0.008M, 3.6 g | FC(C(F)F)(OC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)CC(O)C1CCOCC1)F | C19H26F4N2O5S
reactant | triethylamine | 0.04 mol, 5.58 ml | C(C)N(CC)CC | C6H15N
reactant | methane sulphonyl chloride | 0.012M, 0.94 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | O | H2O
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-4-{[(E)-2-(tetrahydro-2H-pyran-4-yl)vinyl]sulfonyl}piperazine | FC(C(F)F)(OC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)\C=C\C1CCOCC1)F | C19H24F4N2O4S
